US06380249B1
Step 1: 6-Bromo-1-(4-fluorobenzyl)indole
A solution of 6-bromoindole (J. Org. Chem. 1986, 51, 5106) (3.00 g, 15.3 mmol) in DMF (65 mL) was treated with NaH (734 mg of a 60% suspension in mineral oil, 18.4 mmol). After 30 min, 4-fluorobenzyl bromide (1.90 mL, 15.3 mmol) was added. When starting material was consumed, the reaction mixture was poured into 1N HCl and extracted with EtOAc (3×), the combined organic layers were dried (MgSO4) and concentrated. Chromatography of the residue (4:1/hexanes:EtOAc) provided the product.

reactant | 6-bromoindole | 15.3 mmol, 3.00 g | BrC1=CC=C2C=CNC2=C1 | C8H6BrN
reactant | NaH | [H-].[Na+]
reactant | 4-fluorobenzyl bromide | 15.3 mmol, 1.90 mL | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | DMF | 65 mL | CN(C)C=O | C3H7NO
product | 6-Bromo-1-(4-fluorobenzyl)indole | BrC1=CC=C2C=CN(C2=C1)CC1=CC=C(C=C1)F | C15H11BrFN
